US05578620
5-{4-[2-(3-Phenoxy-2-hydroxypropylamino)propoxy]benzyl}thiazolidine-2,4-dione (Compound No. 1-16)
A procedure similar to that described in Example 2 was repeated, except that 0.98 g of 3-phenoxy-2-hydroxypropylamine (prepared as described in Preparation 15), 3.39 g of 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione, 1.11 g of sodium cyanoborohydride and 60 ml of anhydrous methanol were used. The resulting crude product was purified by silica gel column chromatography (using a 10:1 by volume mixture of ethyl acetate and ethanol as the eluent) to give 1.92 g of the title compound, melting at 64° C. to 68° C.

reactant | 3-phenoxy-2-hydroxypropylamine | 0.98 g | O(C1=CC=CC=C1)CC(CN)O | C9H13NO2
reactant | 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione | 3.39 g | O=C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C13H13NO4S
reactant | sodium cyanoborohydride | 1.11 g | C(#N)[BH3-].[Na+]
solvent | methanol | 60 ml | CO | CH4O
product | 5-{4-[2-(3-Phenoxy-2-hydroxypropylamino)propoxy]benzyl}thiazolidine-2,4-dione | 1.92 g | O(C1=CC=CC=C1)CC(CNC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O | C22H26N2O5S
